US04673686
N-(1-cycloheptyl methyl-2-pyrrolidinyl methyl)-2-methoxy-4-amino-5-ethyl sulphonyl benzamide
4.9 g of 2-methoxy-4-amino-5-ethyl sulphonyl benzoic acid, 57 ml of acetone, 10 ml of water and 2.6 ml of triethylamine (density 0.726) are placed in a 250 ml flask fitted with an agitator, a thermometer, a condenser and a dropping funnel. The solution is cooled to between 0° and +5° C. and 2.1 g of ethyl chloroformate is added drop by drop. The reaction medium is agitated for 45 minutes at room temperature then cooled to 0° C. and 5.3 g of 1-cycloheptyl methyl-2-amino methyl pyrrolidine is poured in drop by drop. The medium is agitated for 4 hours then left to stand overnight. The solvents are evaporated to dryness and the residue is dissolved in 60 ml of water and 15 ml of hydrochloric acid (density 1.18). Extraction is carried out 3 times with 50 ml of methylene chloride, the organic phase is dried over magnesium sulphate and filtered, and the solvent is evaporated under vacuum. The residue is dissolved in 100 ml of water. The solution is filtered in the presence of carbon black and the filtrate is made alkaline with about 7 ml of ammonia (density 0.91). A gum is precipitated. It is extracted 3 times with 50 ml of methylene chloride. The organic phase is washed twice with 50 ml of water, dried over magnesium sulphate and filtered. The solvent is evaporated under vacuum and the residue is re-crystallised in 100 ml of isopropanol.

reactant | 2-methoxy-4-amino-5-ethyl sulphonyl benzoic acid | 4.9 g | COC1C(C(=O)O)=CC(=C(C1=S(=O)=O)N)CC | C10H13NO5S
reactant | acetone | 57 ml | CC(=O)C | C3H6O
reactant | ethyl chloroformate | 2.1 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cycloheptyl methyl-2-amino methyl pyrrolidine | 5.3 g | C1(CCCCCC1)N1C(CCC1)(CN)C | C13H26N2
solvent | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
product | N-(1-cycloheptyl methyl-2-pyrrolidinyl methyl)-2-methoxy-4-amino-5-ethyl sulphonyl benzamide | C1(CCCCCC1)N1C(CCC1)C(NC(C=1C(C(C(=C(C1)CC)N)=S(=O)=O)OC)=O)C | C23H37N3O4S
